US08557830B2
Step 2: Preparation of 6-Methyl-5-nitroisoquinoline
6-Methylisoquinoline (2.00 g, 14 mmol) was taken up in sulfuric acid (25.0 mL) and the mixture cooled down to 0° C. The reaction was treated with potassium nitrate (2.8 g, 28 mmol) which was added in portions. After addition was complete, the reaction was stirred for about 1.5 h at 0° C. The reaction was poured onto crushed ice and basified with 5N NaOH. The solid that precipitated was collected by suction filtration, washed with water and dried to give the product (2.5 g, 95%) as a tan solid. MS (ESI, pos. ion) m/z: 189.1 [M+H]+

reactant | 6-Methylisoquinoline | 14 mmol, 2.00 g | CC=1C=C2C=CN=CC2=CC1 | C10H9N
reactant | potassium nitrate | 28 mmol, 2.8 g | [N+](=O)([O-])[O-].[K+]
reactant | NaOH | 5N | [OH-].[Na+]
solvent | sulfuric acid | 25.0 mL | S(O)(O)(=O)=O | H2O4S
product | 6-Methyl-5-nitroisoquinoline | 2.5 g, 95% | CC=1C(=C2C=CN=CC2=CC1)[N+](=O)[O-] | C10H8N2O2
